US06096710
Boc-Gly-Pro-Nleu-NH2
Boc-Gly-Pro-Nleu-OH (4.1 g, 0.0106 mol.), NH4Cl (1.7 g, 0.032 mol.) and HOBt (1.76 g, 0.013 mol.) were dissolved in 100 ml DMF and the solution was chilled to 0° C. TEA (4.5 ml) was added to the solution slowly while stirring the solution. After a while, EDC (2.6 g, 0.013 mol.) was added to the solution. The stirring was continued overnight. The DMF was removed under reduced pressure and the resulting mixture was poured into 350 ml chloroform. The chloroform solution was washed by H2O 2×20 ml, saturated NaHCO3 2×20 ml, brine 2×20 ml, saturated NaHSO4 2×20 ml and brine again until the pH of the brine layer was approximate 7. The organic layer was dried using Na2SO4 and the chloroform was distilled under reduced pressure to obtain the product (3.5 g, 84%). TLC Rf=0.36 (developing solvents: CMA, 85:15:3).

reactant | Boc-Gly-Pro-Nleu-OH | 0.0106 mol, 4.1 g | N(CC(=O)N1[C@H](C(=O)N[C@@H](CCCC)C(=O)O)CCC1)C(=O)OC(C)(C)C | C18H31N3O6
reactant | NH4Cl | 0.032 mol, 1.7 g | [NH4+].[Cl-]
reactant | HOBt | 0.013 mol, 1.76 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.013 mol, 2.6 g
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | Boc-Gly-Pro-Nleu-NH2 | 3.5 g, 84% | N(CC(=O)N1[C@H](C(=O)N[C@@H](CCCC)C(=O)N)CCC1)C(=O)OC(C)(C)C | C18H32N4O5
